US05502054
To a solution of 19.8 g (0.092 mole) of pyridinium chlorochromate in 80 mL of methylene chloride is added a solution of 7.8 g (0.046 mole) of 2-(4-chlorophenyl)propanol in 20 mL of methylene chloride. After one hour this mixture is diluted with 100 mL of diethyl ether, and the remaining solution is decanted from the insoluble material. Additional diethyl ether is added to the solids, and, after being mixed thoroughly, the solution is decanted from the solids and combined with the original solution. The combination is washed sequentially with 10 mL of a 10% aqueous solution of sodium hydroxide, 10 mL of 10% hydrochloric acid, and finally with 10 mL of water. After being dried over an hydrous magnesium sulfate, this solution is evaporated under reduced pressure, leaving a residue. This residue is passed through a column of silica gel, eluting with ethyl acetate/hexane (5:95). Product-containing fractions are combined, and the solvent is evaporated from the combined fractions under reduced pressure, leaving 2-(4-chlorophenyl)propionaldehyde as the residue.

reactant | pyridinium chlorochromate | 0.092 mole, 19.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-(4-chlorophenyl)propanol | 0.046 mole, 7.8 g | ClC1=CC=C(C=C1)C(CO)C | C9H11ClO
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)propionaldehyde | ClC1=CC=C(C=C1)C(C=O)C | C9H9ClO
